US08748624B2
STEP E: N-(2-bromo-6-chloro-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine
A DCE solution (33 mL) of 2-bromo-6-chloro-4-(trifluoromethyl)benzaldehyde (3.7 g, 12.9 mmol), 2′,4′-dichloro-[1,1′-biphenyl]-4-amine (3.4 g, 14.4 mmol), and HOAc (3.0 mL) was heated to 70° C. After 10 min the homogeneous solution was cooled to room temperature and solid NaBH(OAc)3 (5.46 g, 25.8 mmol) was added and the resulting mixture was warmed to 40° C. After 30 min, EtOAc and 2 M K2CO3 were added and the layers were separated. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with 4 M NaCl, dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | 2-bromo-6-chloro-4-(trifluoromethyl)benzaldehyde | 12.9 mmol, 3.7 g | BrC1=C(C=O)C(=CC(=C1)C(F)(F)F)Cl | C8H3BrClF3O
reactant | 2′,4′-dichloro-[1,1′-biphenyl]-4-amine | 14.4 mmol, 3.4 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)N | C12H9Cl2N
reactant | NaBH(OAc)3 | 25.8 mmol, 5.46 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | K2CO3 | 2 M | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HOAc | 3.0 mL | CC(=O)O | C2H4O2
solvent | DCE | 33 mL | ClCCCl | C2H4Cl2
product | N-(2-bromo-6-chloro-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine | BrC1=C(CNC2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)C(=CC(=C1)C(F)(F)F)Cl | C20H12BrCl3F3N
